US07081454B2
4-[2-(3-Chloro-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one:
4-[2-(3-Chloro-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1-trifluoromethanesulfonyl-1,5-dihydro-pyrrol-2-one (0.017 g, 0.023 mmol) was reacted according to the procedure used to synthesize (S)-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one and afforded the title material (0.0069 g, 59%) as a white solid. HPLC: 91% (220 nm), LCMS (+ESI, M+H+) m/z 498, HRMS calcd for C25H28N5O4Cl=497.1830, found: 497.1815; IR ν (cm−1): 3386, 1636, 1558; 1H NMR (400 MHz, methanol-d4) δ (ppm): 2.48 (3H, s), 3.11 (4H, br dd), 3.49 (1H, dd, J=13.9 and 6.8 Hz), 3.57 (1H, dd, J=13.9 and 4.3 Hz), 3.85–3.87 (7H, m), 4.14 (2H, 2d JAB=18.1 Hz), 4.85–4.88 (1H, m), 6.75 (1H, s), 6.92 (1H, s), 7.02 (1H, d, J=8.4 Hz), 7.33 (1H, dd, J=8.4 and 1.8 Hz), 7.47 (1H, d, J=1.8 Hz).

reactant | 4-[2-(3-Chloro-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(1-tert-butyloxycarbonyl-4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1-trifluoromethanesulfonyl-1,5-dihydro-pyrrol-2-one | 0.023 mmol, 0.017 g | ClC=1C=C(C=CC1OC)C(CNC1=C(C(N(C1)S(=O)(=O)C(F)(F)F)=O)C1=NC2=C(N1C(=O)OC(C)(C)C)C=C(C=C2C)N2CCOCC2)O | C31H35ClF3N5O8S
reactant | (S)-4-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one | ClC=1C=C(C=CC1)[C@@H](CNC1=C(C(NC1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2)O | C24H26ClN5O3
product | 4-[2-(3-Chloro-4-methoxy-phenyl)-2-hydroxy-ethylamino]-3-(4-methyl-6-morpholin-4-yl-1H-benzoimidazol-2-yl)-1,5-dihydro-pyrrol-2-one | 0.0069 g, 59% | ClC=1C=C(C=CC1OC)C(CNC1=C(C(NC1)=O)C1=NC2=C(N1)C=C(C=C2C)N2CCOCC2)O | C25H28ClN5O4
